US06809199B2
Step A: 7-[(1-tert-Butylpiperidin-4-ylidene)methyl]-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one
The title compound was prepared from 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-iodo-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one (EXAMPLE CCC34) and using 1-tert-butyl-4-[(trimethylstannyl)methylene]piperidine (INTERMEDIATE ABA3) as described in EXAMPLE 41, Step A. Mass spectrum (ESI): 674.5 (M+1).

reactant | 5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-7-iodo-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one | ClC1=C(C=CC=C1)C1=C2CN(C(N(C2=CC(=C1)I)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC | C28H20Cl3IN2O2
reactant | 1-tert-butyl-4-[(trimethylstannyl)methylene]piperidine | C(C)(C)(C)N1CCC(CC1)=C[Sn](C)(C)C
product | 7-[(1-tert-Butylpiperidin-4-ylidene)methyl]-5-(2-chlorophenyl)-1-(2,6-dichlorophenyl)-3-(4-methoxybenzyl)-3,4-dihydroquinazolin-2(1H)-one | C(C)(C)(C)N1CCC(CC1)=CC1=CC(=C2CN(C(N(C2=C1)C1=C(C=CC=C1Cl)Cl)=O)CC1=CC=C(C=C1)OC)C1=C(C=CC=C1)Cl | C38H38Cl3N3O2
